US06878728B1
(3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[[(4-aminophenyl)sulfonyl](isobutyl)amino]methyl}-4-{4-[(3-cyanobenzyl)oxy]benzyl}-2,2-dimethyl-1,3-oxazolidine-3-carboxylate
To a stirred mixture of (3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[[(4-aminophenyl)sulfonyl](isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (40 mg, 0.07 mmol) and cesium carbonate (22 mg, 0.07 mmol) in 1.5 mL of N,N-dimethylformamide was added 3-bromomethylbenzonitrile (13 mg, 0.07 mmol). The mixture was stirred at room temperature for 12 hours followed by dilution with 25 mL of ether. The ether was extracted with water (5×15 mL). The organic phase was dried with magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified on silica gel using ethyl acetate-hexanes (8.5:1.5) as eluent to provide 41 mg (85%) of the title compound. 1H-NMR (DMSO-d6): δ 0.80-0.86 (6H,dd), 1.37 (3H,s), 1.48,1.55 (3H,s)*, 1.75 (2H,m), 1.94 (1H,m), 2.58-2.78 (6H,m), 2.92-3.09 (2H,m), 3.15-3.21 (1H,m), 3.61 (2H,m), 3.81 (1H,m), 4.14 (1H,m), 4.74 (1H,q), 5.17 (2H,s), 5.53,5.57 (1H,d)*, 5.99 (2H,s,b), 6.58 (2H,d), 6.95 (2H,d), 7.11,7.14 (2H,d)*, 7.22,7.28 (2H,d)*, 7.60 (1H,t), 7.80 (2H,m,b), 7.91 (1H,s).

reactant | (3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[[(4-aminophenyl)sulfonyl](isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 0.07 mmol, 40 mg | NC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)C[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)O[C@@H]1CO[C@H]2OCC[C@H]21)CC2=CC=C(C=C2)O | C30H41N3O8S
reactant | cesium carbonate | 0.07 mmol, 22 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromomethylbenzonitrile | 0.07 mmol, 13 mg | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | ether | 25 mL | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[[(4-aminophenyl)sulfonyl](isobutyl)amino]methyl}-4-{4-[(3-cyanobenzyl)oxy]benzyl}-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 41 mg, 85% | NC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)C[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)O[C@@H]1CO[C@H]2OCC[C@H]21)CC2=CC=C(C=C2)OCC2=CC(=CC=C2)C#N | C38H46N4O8S
